US05532267
6-amidino-2-naphthyl 5-(4-t-butoxycarbonyl-2-guanidinobutyrylaminomethyl)furan-2-carboxylate hydrochloride hydrobromide
To 4.6 g of 4-t-butoxycarbonyl-2-guanidinobutyric acid hydrochloride, 5.3 g of 6-amidino-2-naphthyl 5-aminomethylfuran-2-carboxylate dihydrobromide and 220 mg of DMAP were added 110 ml of DMA and 36 ml of pyridine and the resulting mixture was stirred while cooling with ice. After 10 minutes, 4 g of DCC was added and the mixture was stirred for 3 hours while cooling with ice and then for 16 hours at room temperature. The precipitated were filtered off, the filtrate was added in small portions into 3 l of ether and stirred at room temperature for 3 hours. After removing the supernatant by decantation, the residue was dissolved in 60 ml of DMF, then 3 g of active carbon was added thereto, and the mixture was stirred for 30 minutes while cooling with ice. The insolubles were filtered off, and the filtrate was added dropwise into 3 l of ether and stirred for 5 hours while cooling with ice. The crystals thus precipitated were collected by filtration to obtain 6.7 g of the intended product.

reactant | 4-t-butoxycarbonyl-2-guanidinobutyric acid hydrochloride | 4.6 g | Cl.C(C)(C)(C)OC(=O)CCC(C(=O)O)NC(=N)N
reactant | 6-amidino-2-naphthyl 5-aminomethylfuran-2-carboxylate dihydrobromide | 5.3 g | Br.Br.NCC1=CC=C(O1)C(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N
reactant | DMA | 110 ml | CC(=O)N(C)C | C4H9NO
reactant | DCC | 4 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 220 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 36 ml | N1=CC=CC=C1 | C5H5N
product | 6-amidino-2-naphthyl 5-(4-t-butoxycarbonyl-2-guanidinobutyrylaminomethyl)furan-2-carboxylate hydrochloride hydrobromide | 6.7 g | Br.Cl.C(C)(C)(C)OC(=O)CCC(C(=O)NCC1=CC=C(O1)C(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N)NC(=N)N | InChI=1S/C27H32N6O6.BrH.ClH/c1-27(2,3)39-22(34)11-9-20(33-26(30)31)24(35)32-14-19-8-10-21(37-19)25(36)38-18-7-6-15-12-17(23(28)29)5-4-16(15)13-18;;/h4-8,10,12-13,20H,9,11,14H2,1-3H3,(H3,28,29)(H,32,35)(H4,30,31,33);2*1H
